US03944557
3.15 gms (0.01 mole) of 2-amino-1-n-butyl-4-n-butylamino-6-chloro-5-cyano pyridinium chloride (compound 6 - Table 1), 1.24 gms (0.01 mole) of benzyl mercaptan and 1.0 gm (0.01 mole) of triethylamine was dissolved in dimethylformamide and heated at 100°C for 1 hour. The dimethylformamide was evaporated off, ethanol added and 2.0 gms (50% yield) of 2-amino-6-benzylmercapto-1-n-butyl-4-n-butylamino-5-cyano pyridinium chloride (compound 75 - Table 5) crystallised out and was recrystallised from ethanol (MPt 145° - 147°C).

reactant | 2-amino-1-n-butyl-4-n-butylamino-6-chloro-5-cyano pyridinium chloride | 0.01 mole, 3.15 gms | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCC)C#N)Cl)CCCC
reactant | benzyl mercaptan | 0.01 mole, 1.24 gms | C(C1=CC=CC=C1)S | C7H8S
reactant | triethylamine | 0.01 mole, 1.0 gm | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-amino-6-benzylmercapto-1-n-butyl-4-n-butylamino-5-cyano pyridinium chloride | 2.0 gms, 50% yield | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCC)C#N)SCC1=CC=CC=C1)CCCC | InChI=1S/C21H28N4S.ClH/c1-3-5-12-24-19-14-20(23)25(13-6-4-2)21(18(19)15-22)26-16-17-10-8-7-9-11-17;/h7-11,14H,3-6,12-13,16H2,1-2H3,(H2,23,24);1H
